Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ abdominal pain radiating to the back and inflammation
around the celiac artery found on CT. Patient started having
left-sided abdominal pain yesterday at 8am. It was worsening
throughout the day, which brought him to the ED at ___. His
pain originates from his left abdomen and wraps around his 
entire
abdomen and back in a band-like pattern. It also radiates to his
left shoulder. He also had an episode of non-bloody diarrhea in
the ___ after a normal bowel movement in the am prior to the 
onset
of abdominal pain. No nausea or vomiting, no chest pain, no
fevers, no SOB. Had a recent colonoscopy which he reports as
being negative. He had an episode of sharp stabbing abdominal
pain ___ years ago for which he underwent CT scan and other
imaging with negative findings. His pain resolved without
intervention at that time. He denies history of any autoimmune 
or
inflammatory disorders.

 
Past Medical History:
PMH: PTSD, TBI, fibromyalgia, exercise-induced asthma
PSH: R inguinal hernia repair, R rotator cuff repair

 
Social History:
___
Family History:
NC
 
Physical Exam:
At admission: 

97.4, 78, 132/83, 18, 93%RA
appears comfortable, abd soft, mildly tender L abdomen

At discharge:

GEN: HEENT
HEENT: EOMI, MMM
CV: RRR
PULM: non-labored breathing, on room air 
ABD: soft, non-tender, non-distended
EXT: no edema, WWP
NEURO: A&Ox3
PSYCH: appropriate mood, appropriate affect

 
Pertinent Results:
CRP-3
ESR-6
ANCA-pending
 
Brief Hospital Course:
Mr. ___ presented to ___ from an OSH on ___ with 
diffuse abdominal pain and CT scan concerning for inflammation 
around the celiac artery. He was admitted for serial abdominal 
exams and blood pressure monitoring. He was started on aspirin 
81 mg daily and his simvastatin was increased from 20 mg to 40 
mg daily.

His abdominal exam improved overnight and he was without pain on 
___. Blood pressures were well controlled. He was discharged 
home on ___ with instructions to follow up in 1 month with 
Dr. ___ with repeat CTA at that time. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. DULoxetine 60 mg PO DAILY 
2. Prazosin 7 mg PO QPM 
3. Simvastatin 20 mg PO QPM 
4. mometasone 100 mcg/actuation inhalation x2 QAM & x2 QPM 
5. Albuterol Inhaler ___ PUFF IH PRN exercise induced asthma 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*6 
2.  Simvastatin 40 mg PO QPM 
RX *simvastatin 40 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*6 
3.  Albuterol Inhaler ___ PUFF IH PRN exercise induced asthma  
4.  DULoxetine 60 mg PO DAILY  
5.  mometasone 100 mcg/actuation inhalation x2 QAM & x2 QPM  
6.  Prazosin 7 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal pain
___ artery inflammation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You presented to ___ with abdominal pain. CT scan showed 
inflammation around the aorta and you were admitted to the 
Vascular Surgery service for further monitoring. Your abdominal 
pain has improved and you are now ready for discharge home. 
Please follow the instructions below regarding your care to 
ensure a speedy recovery: 

ACTIVITY: 
-Resume your normal activity as tolerated. 

DIET: 
-Resume your normal diet as tolerated. 

MEDICATIONS: 
-Resume all your prior home meds. 
-You have been started on a new medication called Aspirin. You 
should take this daily (81 mg) indefinitely. 
-The dosage of your simvastatin has been increased from 20 mg 
daily to 40 mg daily. 
-You are being provided with prescriptions for these new 
medications. 

FOLLOW-UP: 
-Follow up with Dr. ___ in 1 month with repeat CT scan. 

GO TO THE EMERGENCY ROOM OR CALL THE OFFICE FOR : ___ 

-A sudden increase in pain that is not controlled with pain 
medication
-Any other symptoms that concern you. 

Thank you for allowing us to participate in your medical care. 

Sincerely, 

Your ___ Surgery Team 

 
Followup Instructions:
___